US04244961
To a mixture of 2.2 g 1-carbobenzyloxy-4-hydroxy-4-anilinomethylpiperidine, 3 ml triethylamine and 20 ml dichloromethane is added a solution of 3 g phosgene in 25 ml toluene. After 30 minutes the mixture is washed with 100 ml, 1 N hydrochloric acid. Removal of solvent by evaporation followed by recrystallization from diethyl ether-hexane affords 1.2 g of 3-phenyl-8-carbobenzyloxy-1-oxa-3,8-diazaspiro[4.5]decan-2-one, mp 100°-102°.

reactant | 1-carbobenzyloxy-4-hydroxy-4-anilinomethylpiperidine | 2.2 g | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)(CNC1=CC=CC=C1)O | C20H24N2O3
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | phosgene | 3 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-phenyl-8-carbobenzyloxy-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 1.2 g | C1(=CC=CC=C1)N1C(OC2(C1)CCN(CC2)C(=O)OCC2=CC=CC=C2)=O | C21H22N2O4
